US07897764B2
To a stirred solution of 5-(3-nitro-phenoxy)-pentylamine (336 mg, 1.5 mmol) and naphthalene-1-sulfonyl chloride (340 mg, 1.5 mmol) in dichloromethane (10 mL) was added triethylamine (182 mg, 1.8 mmol), and the resulting mixture was stirred at room temperature overnight. The reaction mixture was quenched with saturated ammonium chloride (30 mL) followed by extraction with ethyl acetate (10 mL×3). The organic layers were combined, washed with brine, and then concentrated under vacuum. The residue was subjected to column chromatography on silica gel to give naphthalene-1-sulfonic acid [5-(3-nitro-phenoxy)-pentyl]-amide (600 mg, 1.45 mmol, 97%) as a yellow liquid.

reactant | 5-(3-nitro-phenoxy)-pentylamine | 1.5 mmol, 336 mg | [N+](=O)([O-])C=1C=C(OCCCCCN)C=CC1 | C11H16N2O3
reactant | naphthalene-1-sulfonyl chloride | 1.5 mmol, 340 mg | C1(=CC=CC2=CC=CC=C12)S(=O)(=O)Cl | C10H7ClO2S
reactant | triethylamine | 1.8 mmol, 182 mg | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | naphthalene-1-sulfonic acid [5-(3-nitro-phenoxy)-pentyl]-amide | 1.45 mmol, 600 mg, 97% | [N+](=O)([O-])C=1C=C(OCCCCCNS(=O)(=O)C2=CC=CC3=CC=CC=C23)C=CC1 | C21H22N2O5S
